US07737166B2
2-Cyclopropyl-7-(1-hydroxymethylvinyl)-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile (I-324)
4-Cyano-2-cyclopropyl-5-methyl-6-phenyl-1,3-benzoxazol-7-yl trifluoromethanesulfonate (I-323) (760 mg, 1.80 mmol) was dissolved in dimethylformamide (10 ml), then triethylamine (276 μl, 1.98 mmol), allyl alcohol (209 mg, 3.60 mmol), 1,1′-bis(diphenylphosphino)ferrocene (79.8 mg, 0.144 mmol) and palladium(II) acetate (24.2 mg, 0.108 mmol) were added, followed by stirring in an oil bath at 100° C. under argon atmosphere for 16 hours. The reaction liquid was concentrated under reduced pressure, the residue was dissolved in ethyl acetate, washed with water and saturated brine. After drying over anhydrous sodium sulfate, the insoluble matter was separated by filtration, and the residue obtained by concentration was purified by silica gel column chromatography (eluent, n-hexane:ethyl acetate=1:1, v/v) to obtain the entitled compound (193 mg, 32%) as a colorless oily substance.

reactant | 4-Cyano-2-cyclopropyl-5-methyl-6-phenyl-1,3-benzoxazol-7-yl trifluoromethanesulfonate | 1.80 mmol, 760 mg | FC(S(=O)(=O)OC1=C(C(=C(C=2N=C(OC21)C2CC2)C#N)C)C2=CC=CC=C2)(F)F | C19H13F3N2O4S
reactant | triethylamine | 1.98 mmol, 276 μl | C(C)N(CC)CC | C6H15N
reactant | allyl alcohol | 3.60 mmol, 209 mg | C(C=C)O | C3H6O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.144 mmol, 79.8 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | palladium(II) acetate | 0.108 mmol, 24.2 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-Cyclopropyl-7-(1-hydroxymethylvinyl)-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile | 193 mg, 32% | C1(CC1)C=1OC=2C(N1)=C(C(=C(C2C(=C)CO)C2=CC=CC=C2)C)C#N | C21H18N2O2
